US04464369
p-Nitrobenzyl 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer) (4.9 g) dissolved in a mixed solvent of methanol (30 ml), tetrahydrofuran (30 ml) and acetic acid (1 ml). After adding 10% palladium on carbon (2.5 g) thereto, the mixture was subjected to catalytic reduction at ambient temperature under atmospheric pressure. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue were added water and ethyl acetate, and the mixture was adjusted to pH 7.5 with 20% aqueous sodium carbonate. The separated aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent was removed by evaporation to give 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer) (1.4 g).

reactant | p-Nitrobenzyl 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylate | 4.9 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C1=NSC=N1 | C24H23ClN6O9S2
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.4 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C1=NSC=N1 | C17H18ClN5O7S2
